US04814346
NaH is dissolved in dry dimethylformamide under nitrogen atmosphere at 0°. 7,8-Dimethoxy-3-(4-hydroxyphenyl)-4H-1-benzopyran-4-one [cp. J. Inst. Chem. (Calcutta) 43, 234 (1971)], dissolved in dry dimethylformamide, is added slowly, then a solution of chloroacetic acid. The solution is heated at 70° for 5 h and evaporated under vacuum to about one third of its original volume. After cooling, water is added and a precipitate occurs which is filtered and crystallized in methanol to give 7,8-dimethoxy-3-(4-carboxymethoxyphenyl)-4H-1-benzopyran-4-one.

reactant | NaH | [H-].[Na+]
reactant | 7,8-Dimethoxy-3-(4-hydroxyphenyl)-4H-1-benzopyran-4-one | COC1=C(C2=C(C(C(=CO2)C2=CC=C(C=C2)O)=O)C=C1)OC | C17H14O5
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7,8-dimethoxy-3-(4-carboxymethoxyphenyl)-4H-1-benzopyran-4-one | COC1=C(C2=C(C(C(=CO2)C2=CC=C(C=C2)OCC(=O)O)=O)C=C1)OC | C19H16O7
